US07144909B2
Methyl[3,5-dibromo-4-(4-methoxy-3-iodophenoxy)phenyl]acetate (0.82 g, 1.5 mmol) was dissolved in dichloromethane (25 mL) and cooled down to −78° C. Boron tribromide (8.8 mL, 1 N in dichloromethane) was added and the reaction mixture was stirred at −20° C. for 30 hours. Water was added to the reaction mixture, the organic phase separated and concentrated. The residue was filtered on a short column (silica, dichloromethane/ethyl acetate 1:1), to give 0.73 g (90%) of methyl [3,5-dibromo-4-(4-hydroxy-3-iodophenoxy)-phenyl]acetate as a beige solid mass.

reactant | Methyl[3,5-dibromo-4-(4-methoxy-3-iodophenoxy)phenyl]acetate | 1.5 mmol, 0.82 g | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C=C1)OC)I)Br)=O | C16H13Br2IO4
reactant | Boron tribromide | 1 N, 8.8 mL | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl [3,5-dibromo-4-(4-hydroxy-3-iodophenoxy)-phenyl]acetate | 0.73 g, 90% | BrC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)I)Br)CC(=O)OC | C15H11Br2IO4
